US05677464
2-[(1R,2S)-2-(2,4-Difluorophenyl)-2-formyl-2-hydroxy-1-methylethyl]-4-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-3(2H,4H)-1,2,4-triazolone (300 mg) was dissolved in 9 ml of methanol, to which 74 mg of sodium borohydride was added at 0° C. The mixture was stirred with ice cooling for 30 minutes. To the reaction solution was added 1 ml of 1N-hydrochloric acid and 50 ml of ethyl acetate, and then the organic layer was washed with 10 ml of water and 10 ml of an aqueous solution of sodium chloride successively. The organic layer was dried over magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography (eluent; hexane:ethyl acetate=1:1) to give 165 mg of 2-[(1R,2S)-2-(2,4-difluorophenyl)-2,3-dihydroxy-1-methylpropyl]-4-[4-(2,2,3,3-tetrafluoro-propoxy)phenyl]-3(2H,4H)-1,2,4-triazolone as colorless prisms.

reactant | 2-[(1R,2S)-2-(2,4-Difluorophenyl)-2-formyl-2-hydroxy-1-methylethyl]-4-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-3(2H,4H)-1,2,4-triazolone | 300 mg | FC1=C(C=CC(=C1)F)[C@@]([C@@H](C)N1N=CN(C1=O)C1=CC=C(C=C1)OCC(C(F)F)(F)F)(O)C=O | C21H17F6N3O4
reactant | sodium borohydride | 74 mg | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 9 ml | CO | CH4O
product | 2-[(1R,2S)-2-(2,4-difluorophenyl)-2,3-dihydroxy-1-methylpropyl]-4-[4-(2,2,3,3-tetrafluoro-propoxy)phenyl]-3(2H,4H)-1,2,4-triazolone | 165 mg | FC1=C(C=CC(=C1)F)[C@]([C@@H](C)N1N=CN(C1=O)C1=CC=C(C=C1)OCC(C(F)F)(F)F)(CO)O | C21H19F6N3O4
